US07795267B2
(E)-7-[3-(4-Fluorophenyl)-1-oxo-2-propenyl]-hexahydro-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-3-one
To a solution of 4-fluorocinnamic acid (50 mg, 0.30 mmol) in tetrahydrofuran (1 mL) were sequentially added oxalyl chloride (46 mg, 0.36 mmol) and N,N-dimethylformamide (one drop), and the mixture was stirred at room temperature for 1 hour. The reaction solution was concentrated under reduced pressure. A solution of hexahydro-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-3-one (60 mg, 0.20 mmol) in tetrahydrofuran (1.5 mL) and diisopropylethylamine (0.3 mL) were sequentially added thereto, and the mixture was stirred at room temperature for 3 hours. To the reaction solution was added an aqueous saturated sodium hydrogen carbonate solution, and the mixture was extracted with ethyl acetate. The extract was washed with water and concentrated under reduced pressure. The residue was purified with silica gel column chromatography (hexane:ethyl acetate=1:1) and crystallized from ethyl acetate-diisopropyl ether to obtain the title compound (32 mg, yield 36%).

reactant | 4-fluorocinnamic acid | 0.30 mmol, 50 mg | FC1=CC=C(C=CC(=O)O)C=C1 | C9H7FO2
reactant | oxalyl chloride | 0.36 mmol, 46 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | hexahydro-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-3-one | 0.20 mmol, 60 mg | C1(=CC=CC=C1)C1(OC(N2C1CNCC2)=O)C2=CC=CC=C2 | C18H18N2O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
catalyst | N,N-dimethylformamide | one drop | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 1.5 mL | O1CCCC1 | C4H8O
solvent | diisopropylethylamine | 0.3 mL | C(C)(C)N(CC)C(C)C | C8H19N
product | (E)-7-[3-(4-Fluorophenyl)-1-oxo-2-propenyl]-hexahydro-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-3-one | 32 mg, yield 36% | FC1=CC=C(C=C1)/C=C/C(=O)N1CC2N(CC1)C(OC2(C2=CC=CC=C2)C2=CC=CC=C2)=O | C27H23FN2O3
